US05166214
Part B. To a solution of 5-(4,5-diphenyl-1H-imidazol-2-ylamino)-aminopentane (1.7 g, 0.00531 mol) and triethylamine (0.58 g, 0.0058 mol) in methylene chloride cooled to 0° under a nitrogen atmosphere, heptanoyl chloride (0.788 g, 0.00531 mol) was added slowly. The reaction mixture was stirred for 1 hour at 0°, poured into water and extracted with methylene chloride (2×50 mL). The combined organic extract was washed with water, brine, dried over magnesium sulfate and concentrated to give N-[5-(4,5-diphenyl-1H-imidazol-2-ylamino)pentyl]heptanamide as a viscous oil. The product was purified by flash chromatography on silica gel (250 mL) eluting methylene chloride:methanol (95:5 v:v), to give an amber foam (1.3 g, 0.003 mol). 1H NMR (CDCl3) δ7.43-7.15(m,10H), 6.3(m,1H), 3.24-3.1(m,4H), 2.09(t,2H), 1.6-1.16(m,14H), 0.84(t,3H).

reactant | 5-(4,5-diphenyl-1H-imidazol-2-ylamino)-aminopentane | 0.00531 mol, 1.7 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)NCCCCCN | C20H24N4
reactant | triethylamine | 0.0058 mol, 0.58 g | C(C)N(CC)CC | C6H15N
reactant | heptanoyl chloride | 0.00531 mol, 0.788 g | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[5-(4,5-diphenyl-1H-imidazol-2-ylamino)pentyl]heptanamide | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)NCCCCCNC(CCCCCC)=O | C27H36N4O
